US06297266B1
378 mg of ethoxycarbonylmethyl 5-{[2-(3-benzyl-ureido)-thiazole-4-carbonyl]-amino}-2-ethoxycarbonylmethoxy-benzoate, 6.5 ml of ethanol and 1.29 ml of 2N sodium hydroxide solution are stirred for 5 hrs. at RT. After the addition of 3 ml of acetic acid and 2 ml of water the mixture is warmed until a homogeneous solution is obtained. After cooling the precipitate is filtered off under suction, washed with acetic acid-water 1:1 and dried. There are obtained 290 mg of 5-{[2-(3-benzyl-ureido)-thiazole-4-carbonyl]-amino}-2-carboxymethoxy-benzoic acid, m.p. 219° C., MS: 471 (M+H)+.

reactant | ethoxycarbonylmethyl 5-{[2-(3-benzyl-ureido)-thiazole-4-carbonyl]-amino}-2-ethoxycarbonylmethoxy-benzoate | 378 mg | C(C1=CC=CC=C1)NC(NC=1SC=C(N1)C(=O)NC=1C=CC(=C(C(=O)OCC(=O)OCC)C1)OCC(=O)OCC)=O | C27H28N4O9S
reactant | ethanol | 6.5 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 2N, 1.29 ml | [OH-].[Na+]
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | water | 2 ml | O | H2O
product | 5-{[2-(3-benzyl-ureido)-thiazole-4-carbonyl]-amino}-2-carboxymethoxy-benzoic acid | 290 mg | C(C1=CC=CC=C1)NC(NC=1SC=C(N1)C(=O)NC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)=O | C21H18N4O7S
